US04916149
25.7 g of 4-methoxycarbonyl-2-nitro-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine were stirred with 120 ml of 2N sodium hydroxide solution at 50° C. for 4 hours. After cooling down, the pH value of the dark violet solution was adjusted to 5 by adding 2N hydrochloric acid. The yellow precipitate was filtered by suction, washed with water and dried at 80° C. to give 23 g (92.5%) of 4-carboxy-2-nitro-N-(4'-chloro-3'-sulfamoyl-benzoyl)phenylhydrazine as a yellow powder, m.p.: 273°-275° C. (with decomposition).

reactant | 4-methoxycarbonyl-2-nitro-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine | 25.7 g | COC(=O)C1=CC(=C(C=C1)N(N)C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)[N+](=O)[O-] | C15H13ClN4O7S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 2N, 120 ml | [OH-].[Na+]
product | 4-carboxy-2-nitro-N-(4'-chloro-3'-sulfamoyl-benzoyl)phenylhydrazine | 23 g, 92.5% | C(=O)(O)C1=CC(=C(C=C1)N(N)C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)[N+](=O)[O-] | C14H11ClN4O7S
